US05968985
A solution of methyl 3-(furan-3-yl)benzoate (1.0 g) in acetic acid (5 ml) was stirred at 110° C., and to this was slowly added N-chlorosuccinimide (0.66 g). The mixture was heated at 110° C. for 1.5 hours and then cooled to room temperature. The reaction mixture was poured onto water and the product was extracted with ethyl acetate, washed successively with water, hydrochloric acid, and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of hexane:toluene (2:1) to afford methyl 3-(2-chlorofuran-3-yl)benzoate (0.24 g).

reactant | methyl 3-(furan-3-yl)benzoate | 1.0 g | O1C=C(C=C1)C=1C=C(C(=O)OC)C=CC1 | C12H10O3
reactant | N-chlorosuccinimide | 0.66 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | methyl 3-(2-chlorofuran-3-yl)benzoate | 0.24 g | ClC=1OC=CC1C=1C=C(C(=O)OC)C=CC1 | C12H9ClO3
